US05130335
5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthol
To a stirred solution of 13.2 g (0.1403 mol) of phenol and 12.8 g (0.0998 mol) of 2,2,5,5-tetramethyltetrahydrofuran in 50 ml of heptane was added 13.1 g (0.0982 mol) of aluminum chloride in small portions. After the addition was complete the mixture was stirred at room temperature for 2.5 hours, at reflux for 2 hours and then at room temperature for a further 16 hours. The reaction mixture was then treated with 100 ml of 3N HCl and stirred for 0.5 hours. The mixture was filtered and the residue washed with water and dried in-vacuo to give crude product. The organic layer was separated from the filtrate and the aqueous layer extracted with 3×75 ml of ether. The organic layers were combined and washed with saturated NaCl solution, dried (MgSO4) and then concentrated in-vacuo to give further crude product. The crude product was recrystallized from hexanes to give the title compound as pale brown crystals.

reactant | phenol | 0.1403 mol, 13.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,2,5,5-tetramethyltetrahydrofuran | 0.0998 mol, 12.8 g | CC1(OC(CC1)(C)C)C | C8H16O
reactant | aluminum chloride | 0.0982 mol, 13.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 3N, 100 ml | Cl | ClH
solvent | heptane | 50 ml | CCCCCCC | C7H16
product | 5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthol | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
